US07790668B2
180 g Potassium hydroxide dissolved in 800 ml water was added over 2 h to 810 g 3-(4-methoxy-4-methyl-hexyl)-3-methyl-oxirane-2-carboxylic acid methyl ester at a temperature of 0° C. to 5° C. Then 36 g KOH dissolved in 150 ml water was added in portions till the colour change from orange to beige persisted. The mixture which had pH 11 was then acidified at 0° C. by the addition of HCl 32% (300 ml, added over 30 minutes), followed by diluted phosphoric acid till pH 3 was reached. The phases were separated and the aqueous phase extracted with tert.-butyl methyl ether. The combined organic phases were washed with concentrated NaCl solution prior to evaporating the solvent. The very viscous oil which remained (780 g) was added dropwise over a period of 3 h to 300 ml PEG 200 which was kept at 160° C. Thereby the product distilled off. After the addition, steam was injected for about 30 minutes to distil off any steam-volatile product. The two phases of the distillate were separated and the aqueous phase extracted with tert.-butyl methyl ether. The combined organic phases were washed with KHCO3 and NaCl. Evaporation of the solvent afforded 380 g of a faintly yellow oil which was distilled over a 60 cm Sulzer column to give 338 g 6-methoxy-2,6-dimethyl-octanal (bp. 65°-66° C./0.3 Torr=0.399 mbar).

reactant | Potassium hydroxide | 180 g | [OH-].[K+]
reactant | 3-(4-methoxy-4-methyl-hexyl)-3-methyl-oxirane-2-carboxylic acid methyl ester | COC(=O)C1OC1(C)CCCC(CC)(C)OC | C13H24O4
reactant | KOH | 36 g | [OH-].[K+]
reactant | HCl | 300 ml | Cl | ClH
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | 800 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 6-methoxy-2,6-dimethyl-octanal | 338 g | COC(CCCC(C=O)C)(CC)C | C11H22O2
